Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[cH:7][cH:6][cH:5][cH:4][cH:3]1.[CH3:8][O:9][C:10](=[O:11])[c:12]1[cH:13][c:14]([OH:15])[cH:16][c:17]([O:18][c:19]2[cH:20][cH:21][c:22]([N+:23](=[O:24])[O-:25])[cH:26][cH:27]2)[cH:28]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:15][c:14]1[cH:13][c:12]([C:10]([O:9][CH3:8])=[O:11])[cH:28][c:17]([O:18][c:19]2[cH:20][cH:21][c:22]([N+:23](=[O:24])[O-:25])[cH:26][cH:27]2)[cH:16]1,[CH3:8][O:9][C:10](=[O:11])[c:12]1[cH:13][c:14]([OH:15])[cH:16][c:17]([O:18][c:19]2[cH:20][cH:21][c:22]([N+:23](=[O:24])[OH:25])[cH:26][cH:27]2)[cH:28]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:15][c:14]1[cH:13][c:12]([C:10]([O:9][CH3:8])=[O:11])[cH:28][c:17]([O:18][c:19]2[cH:20][cH:21][c:22]([N+:23](=[O:24])[OH:25])[cH:26][cH:27]2)[cH:16]1,SN2_alcohol(thiol),"[(301, 15.1), ([15.1, 15], 15), (15, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[n:2]([CH2:3][CH2:4][C@@H:5]([OH:6])[CH2:7][O:8][c:9]2[cH:10][cH:11][c:12]3[n:13][c:14]([N:15]4[CH2:16][CH2:17][N:18]([CH2:19][c:20]5[cH:21][cH:22][c:23]([O:24][C:25]([F:26])([F:27])[F:28])[cH:29][cH:30]5)[CH2:31][CH2:32]4)[s:33][c:34]3[cH:35]2)[cH:36][c:37]([N+:38](=[O:39])[O-:40])[n:41]1>>[c:1]12[n:2]([cH:36][c:37]([N+:38](=[O:39])[O-:40])[n:41]1)[CH2:3][CH2:4][C@H:5]([CH2:7][O:8][c:9]1[cH:10][cH:11][c:12]3[n:13][c:14]([N:15]4[CH2:16][CH2:17][N:18]([CH2:19][c:20]5[cH:21][cH:22][c:23]([O:24][C:25]([F:26])([F:27])[F:28])[cH:29][cH:30]5)[CH2:31][CH2:32]4)[s:33][c:34]3[cH:35]1)[O:6]2,[Cl:101][c:1]1[n:2]([CH2:3][CH2:4][C@@H:5]([OH:6])[CH2:7][O:8][c:9]2[cH:10][cH:11][c:12]3[n:13][c:14]([N:15]4[CH2:16][CH2:17][N:18]([CH2:19][c:20]5[cH:21][cH:22][c:23]([O:24][C:25]([F:26])([F:27])[F:28])[cH:29][cH:30]5)[CH2:31][CH2:32]4)[s:33][c:34]3[cH:35]2)[cH:36][c:37]([N+:38](=[O:39])[OH:40])[n:41]1.[H-:301].[Na+]>>[c:1]12[n:2]([cH:36][c:37]([N+:38](=[O:39])[OH:40])[n:41]1)[CH2:3][CH2:4][C@H:5]([CH2:7][O:8][c:9]1[cH:10][cH:11][c:12]3[n:13][c:14]([N:15]4[CH2:16][CH2:17][N:18]([CH2:19][c:20]5[cH:21][cH:22][c:23]([O:24][C:25]([F:26])([F:27])[F:28])[cH:29][cH:30]5)[CH2:31][CH2:32]4)[s:33][c:34]3[cH:35]1)[O:6]2,SNAr_alco(thi)ol(para),"[(301, 6.1), ([6.1, 6], 6), (6, 1), ([1, 2], [2, 36]), ([36, 37], [37, 38]), ([38, 39], 39), (39, [39, 38]), ([38, 37], [37, 36]), ([36, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]([Br:8])[cH:9]1.[CH3:10][CH:11]([CH3:12])[NH:13][CH2:14][CH2:15][OH:16]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]([Br:8])[cH:9]1)[N:13]([CH:11]([CH3:10])[CH3:12])[CH2:14][CH2:15][OH:16],[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]([Br:8])[cH:9]1.[CH3:10][CH:11]([CH3:12])[NH:13][CH2:14][CH2:15][OH:16]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]([Br:8])[cH:9]1)[N:13]([CH:11]([CH3:10])[CH3:12])[CH2:14][CH2:15][OH:16],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[n:3][c:4]([NH:5][c:6]2[c:7]([CH3:8])[cH:9][cH:10][cH:11][cH:12]2)[s:13][cH:14]1.[O:15]=[C:16]([OH:17])[CH2:18][N:19]1[C:20](=[O:21])[CH2:22][S:23][C:24]1=[S:25]>>[CH:1]([c:2]1[n:3][c:4]([NH:5][c:6]2[c:7]([CH3:8])[cH:9][cH:10][cH:11][cH:12]2)[s:13][cH:14]1)=[C:22]1[C:20](=[O:21])[N:19]([CH2:18][C:16](=[O:15])[OH:17])[C:24](=[S:25])[S:23]1,[O:101]=[CH:1][c:2]1[n:3][c:4]([NH:5][c:6]2[c:7]([CH3:8])[cH:9][cH:10][cH:11][cH:12]2)[s:13][cH:14]1.[O:15]=[C:16]([OH:17])[CH2:18][N:19]1[C:20](=[O:21])[CH2:22][S:23][C:24]1=[S:25].[OH-:301]>>[CH:1]([c:2]1[n:3][c:4]([NH:5][c:6]2[c:7]([CH3:8])[cH:9][cH:10][cH:11][cH:12]2)[s:13][cH:14]1)=[C:22]1[C:20](=[O:21])[N:19]([CH2:18][C:16](=[O:15])[OH:17])[C:24](=[S:25])[S:23]1,aldol_condensation,"[(301, 22.1), ([22.1, 22], [22, 20]), ([20, 21], 21), (21, [21, 20]), ([20, 22], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 22.1), ([22.1, 22], [22, 20]), ([20, 21], 21), (21, [21, 20]), ([20, 22], [22, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
